US07943619B2
b) 3-Pyridin-2-yl-isoxazole-4-carboxylic acid
As described for example 112a, 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester (9.6 g, 44 mmol), instead of 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester, was converted to the title compound (6.5 g, 79%) which was obtained as an off-white solid. MS: m/e=189.3 [M−H]−.

reactant | 3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 44 mmol, 9.6 g | C(C)OC(=O)C=1C(=NOC1)C1=NC=CC=C1 | C11H10N2O3
reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F | C17H15FN4O4
product | 3-Pyridin-2-yl-isoxazole-4-carboxylic acid | 6.5 g, 79% | N1=C(C=CC=C1)C1=NOC=C1C(=O)O | C9H6N2O3
